US07253285B2
To a suspension of 4-chloro-quinoline-6-carbaldehyde (3.59 g, 18.73 mmol) in heptanes (36 mL) was added n-butylamine(1.51 g, 20.60 mmol, 1.1 equiv.) at room temperature. The reaction mixture was stirred for 5 h at room temperature by this time all solids were dissolved and gave a light brown solution containing a little oily stuff on the wall of flask. Then, 4 mL of THF was added and the clear solution was stirred for another 15 h. This solution was diluted with ethyl acetate (50 mL) and washed with brine solution and dried over anhydrous magnesium sulfate. After filtration of the drying agent, the solvents were removed under the vacuum and the remaining residue was dried under high vacuum to afford 4.62 g (˜100% yield) of butyl (4-chloro-quinolin-6-ylmethylene)-amine as a brown oil which was used directly for the next substitution reaction. LRMS(+) m/e calcd for C14H15ClN2 (M+H)+247.7, found 247.2.

reactant | 4-chloro-quinoline-6-carbaldehyde | 18.73 mmol, 3.59 g | ClC1=CC=NC2=CC=C(C=C12)C=O | C10H6ClNO
reactant | n-butylamine | 20.60 mmol, 1.51 g, 1.1 equiv. | C(CCC)N | C4H11N
reactant | THF | 4 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | butyl (4-chloro-quinolin-6-ylmethylene)-amine | 4.62 g, ˜100% yield | C(CCC)N=CC=1C=C2C(=CC=NC2=CC1)Cl | C14H15ClN2
